US08877760B2
To a mixture of (R)-2-(5-cyano-6-(m-tolylamino)pyrazin-2-ylamino)-4-methylpentanamide in methanol (1 ml) was added K2CO3 (excess)) and H2O2 (50%, a few drops). After completion, it was concentrated and purified by preparative HPLC to give (R)-5-(1-amino-4-methyl-1-oxopentan-2-ylamino)-3-(m-tolylamino)pyrazine-2-carboxamide (6 mg). MS found for C18H24N6O2 as (M+H)+ 357.3, UV: λ=253.4, 304.5.

reactant | (R)-2-(5-cyano-6-(m-tolylamino)pyrazin-2-ylamino)-4-methylpentanamide | C(#N)C=1N=CC(=NC1NC=1C=C(C=CC1)C)N[C@@H](C(=O)N)CC(C)C | C18H22N6O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 1 ml | CO | CH4O
catalyst | H2O2 | a few drops | OO | H2O2
product | (R)-5-(1-amino-4-methyl-1-oxopentan-2-ylamino)-3-(m-tolylamino)pyrazine-2-carboxamide | 6 mg | NC([C@@H](CC(C)C)NC=1N=C(C(=NC1)C(=O)N)NC=1C=C(C=CC1)C)=O | C18H24N6O2
